US09079866B2
4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-[(1R,2S)-2-hydroxycyclohexyl]biphenyl-2-sulfonamide
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 2-bromo-N-((1R,2S)-2-hydroxycyclohexyl)benzenesulfonamide. MS (ESI): mass calcd. for C22H23FN4O3S, 442.15; m/z found, 443.2 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.33 (s, 2H), 8.15-8.11 (m, 1H), 7.98 (m, 1H), 7.69-7.64 (m, 1H), 7.61-7.56 (m, 1H), 7.42-7.32 (m, 3H), 3.70-3.63 (m, 1H), 3.09-3.03 (m, 1H), 1.70-1.61 (m, 1H), 1.60-1.44 (m, 3H), 1.42-1.24 (m, 3H), 1.22-1.10 (m, 1H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 2-bromo-N-((1R,2S)-2-hydroxycyclohexyl)benzenesulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N[C@H]1[C@H](CCCC1)O | C12H16BrNO3S
product | 4′-(5-Aminopyrazin-2-yl)-3′-fluoro-N-[(1R,2S)-2-hydroxycyclohexyl]biphenyl-2-sulfonamide | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N[C@H]1[C@H](CCCC1)O)F | C22H23FN4O3S
